### ISSUE TITLE
`lean_nat_mod` returns a wrong value (proof of False)

### ISSUE THREAD

**Issue by pcpthm** [leanprover/lean4#1433]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

On a 64-bit platform, the C++ implementation of `Nat.mod` returns a wrong value when the dividend is big (not scalar) and the divisor is medium-sized (more than `2^32` and less than `2^64`).

I think this `get_unsigned_int` is wrong when `sizeof(size_t) > sizeof(unsigned int)` and the result is truncated:

https://github.com/leanprover/lean4/blob/a62949c49b4f631624fe33315f04b738f0cce349/src/runtime/object.cpp#L1115

### Steps to Reproduce

Proof of False:

```lean
def dividend := 2^65
def divisor := 2^33+1

def correctQuot := 2^32-1
def correctRem := 2^32+1
def wrongRem := 1

theorem correct₁ : dividend / divisor = correctQuot := rfl
theorem correct₂ : dividend = divisor * correctQuot + correctRem := rfl

theorem wrong : dividend % divisor = wrongRem := rfl

theorem unsound : False := by
  have : wrongRem = correctRem := by
    have h := Nat.div_add_mod dividend divisor
    rw [wrong, correct₁, correct₂] at h
    apply Nat.add_left_cancel h
  contradiction
```

**Expected behavior:** `2^65 % (2^33+1) =  2^32+1`

**Actual behavior:** `2^65 % (2^33+1) = 1`

### Versions

`Lean (version 4.0.0-nightly-2022-08-04, commit 9e69259f8343, Release)`

**Comment by leodemoura** [comment]
Thanks for reporting this serious issue and finding where the bug is.
